* Extracted by KLayout with SKY130 LVS runset on : 06/06/2026 23:46

* cell 4_nor1X
* pin VSS!
* pin Y
* pin VDD!
* pin A
* pin B
* pin C
* pin D
.SUBCKT 4_nor1X VSS! Y VDD! A B C D
* device instance $1 r0 *1 11.66,2.16 sky130_fd_pr__pfet_01v8
XM$1 \$20 C \$19 VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1680000
+ AS=378000000000 AD=252000000000 PS=3420000 PD=2280000
* device instance $3 r0 *1 12.56,2.16 sky130_fd_pr__pfet_01v8
XM$3 \$20 D Y VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1680000 AS=252000000000
+ AD=378000000000 PS=2280000 PD=3420000
* device instance $5 r0 *1 9.29,2.16 sky130_fd_pr__pfet_01v8
XM$5 \$17 A VDD! VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1680000
+ AS=378000000000 AD=252000000000 PS=3420000 PD=2280000
* device instance $7 r0 *1 10.19,2.16 sky130_fd_pr__pfet_01v8
XM$7 \$17 B \$19 VDD! sky130_fd_pr__pfet_01v8 L=150000 W=1680000
+ AS=252000000000 AD=378000000000 PS=2280000 PD=3420000
* device instance $9 r0 *1 12.785,-0.17 sky130_fd_pr__nfet_01v8
XM$9 Y D VSS! VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=126000000000
+ AD=126000000000 PS=1440000 PD=1440000
* device instance $10 r0 *1 10.925,-0.17 sky130_fd_pr__nfet_01v8
XM$10 Y B VSS! VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=126000000000
+ AD=63000000000 PS=1440000 PD=720000
* device instance $11 r0 *1 11.375,-0.17 sky130_fd_pr__nfet_01v8
XM$11 VSS! C Y VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=63000000000
+ AD=126000000000 PS=720000 PD=1440000
* device instance $12 r0 *1 9.515,-0.17 sky130_fd_pr__nfet_01v8
XM$12 VSS! A Y VSS! sky130_fd_pr__nfet_01v8 L=150000 W=420000 AS=126000000000
+ AD=126000000000 PS=1440000 PD=1440000
.ENDS 4_nor1X
